US06194409B1
89a. [3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetic acid
To a stirred solution of 0.71 g of tert-butyl [3-amino-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetate (WO 97/01338) at 0° C. under a nitrogen atmosphere was added 0.60 mL cyclohexylmethanesulfonyl chloride (J. F. King et al J. Am. Chem. Soc. 114, 1743 (1992)). After stirring at room temperature for 3 hours the reaction mixture was concentrated. The residue was dissolved in ethyl acetate, washed successively with 0.1 N hydrochloric acid, water and brine, dried over sodium sulphate and concentrated. The residue was dissolved in a mixture of 0.2 mL water and 1.8 mL trifluoroacetic acid. After stirring at room temperature for 4 h, water and ethyl acetate were added. The organic layer was separated, washed twice with 0.1 N hydrochloric acid, dried over sodium sulphate and concentrated. The solid residue was washed with a cold dichloromethane/diethyl ether mixture to give 0.72 g of the title compound.

reactant | tert-butyl [3-amino-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetate | 0.71 g | NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C12H18N2O3
reactant | cyclohexylmethanesulfonyl chloride | 0.60 mL | C1(CCCCC1)CS(=O)(=O)Cl | C7H13ClO2S
product | [3-(cyclohexylmethylsulfonylamino)-6-methyl-2-oxo-1,2-dihydropyridinyl]-acetic acid | 0.72 g | C1(CCCCC1)CS(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H22N2O5S
